### PR TITLE
[Merged by Bors] - feat(Analysis/Normed): weak-topology embedding into weak-star bidual and compactenss transfer theorem

### PR DESCRIPTION
**Pull request by mike1729**
This PR refactors the double dual material and adds new results connecting the weak topology on a normed space to the weak-star topology on its bidual.

### New file: `Analysis.Normed.Module.DoubleDual`

Extracts the canonical embedding `inclusionInDoubleDual` and the bidual isometry `inclusionInDoubleDualLi` from `Analysis.Normed.Module.Dual` into a dedicated file, and adds:

- `inclusionInDoubleDualWeak`: the canonical map from `WeakSpace 𝕜 X` into `WeakDual 𝕜 (StrongDual 𝕜 X)`.
- `inclusionInDoubleDualWeak_isEmbedding`: this map is a topological embedding.
- `inclusionInDoubleDualWeak_homeomorph`: the map as a homeomorphism onto its range.
- `isCompact_closure_of_isBounded`: bounded sets whose bidual image has weak-star closure in range have weakly compact closure, via Banach–Alaoglu.

### Modified: `Analysis.Normed.Module.Dual`

The double dual inclusion material is moved out; polar set results remain. References to `inclusionInDoubleDual` in `polar_closure` are replaced by `ContinuousLinearMap.apply` to avoid a dependency on the new file.

---

CC: @faenuccio this may be relevant for your Goldstine formalization.

### CODE REVIEW

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 1]
```diff
@@ -0,0 +1,166 @@
...
+pulled back from the weak-star topology on the bidual. Both are the topology of pointwise
+convergence against `StrongDual 𝕜 X`. -/
+theorem inclusionInDoubleDualWeak_isInducing :
+    IsInducing (inclusionInDoubleDualWeak 𝕜 X) where
+  eq_induced := by
+    change _ = TopologicalSpace.induced (inclusionInDoubleDualWeak 𝕜 X)
+      (TopologicalSpace.induced
+        (fun (φ : WeakDual 𝕜 (StrongDual 𝕜 X)) f => φ f) Pi.topologicalSpace)
+    rw [induced_compose]
+    rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]:
```suggestion
  eq_induced := Eq.symm <| induced_compose (f := inclusionInDoubleDualWeak 𝕜 X)
```

File: Mathlib/Analysis/Normed/Module/Dual.lean [hunk 2]
```diff
@@ -234,6 +153,25 @@ theorem sInter_polar_eq_closedBall {𝕜 E : Type*} [RCLike 𝕜] [NormedAddComm
...
+theorem eq_zero_iff_forall_dual_eq_zero (x : E) : x = 0 ↔ ∀ g : StrongDual 𝕜 E, g x = 0 :=
+  ⟨fun hx => by simp [hx], fun h => eq_zero_of_forall_dual_eq_zero 𝕜 h⟩
+
+/-- See also `geometric_hahn_banach_point_point`. -/
+theorem eq_iff_forall_dual_eq {x y : E} : x = y ↔ ∀ g : StrongDual 𝕜 E, g x = g y := by
+  rw [← sub_eq_zero, eq_zero_iff_forall_dual_eq_zero 𝕜 (x - y)]
+  simp [sub_eq_zero]
+
+end DualSeparation
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Dual.lean]: These should be stated instead for the `SeparatingDual` class. Then they should apply automatically to the dual of a normed space via the relevant instance.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 3]
```diff
@@ -203,23 +203,37 @@ namespace WeakDual
 
 open NormedSpace
 
+/-- The norm bornology on `WeakDual 𝕜 E`, inherited from `StrongDual 𝕜 E`. -/
+instance instBornology : Bornology (WeakDual 𝕜 E) := inferInstanceAs (Bornology (StrongDual 𝕜 E))
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: you need some lemmas here characterizing boundedness as it relates to `WeakDual.toStrongDual` and `StrongDual.toWeakDual`. Otherwise you'll just be abusing defeq.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 4]
```diff
@@ -249,8 +263,10 @@ theorem isCompact_polar [ProperSpace 𝕜] {s : Set E} (s_nhds : s ∈ 𝓝 (0 :
 /-- The **Banach-Alaoglu theorem**: closed balls of the dual of a normed space `E` are compact in
 the weak-star topology. -/
 theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : ℝ) :
-    IsCompact (toStrongDual ⁻¹' closedBall x' r) :=
-  isCompact_of_bounded_of_closed isBounded_closedBall (isClosed_closedBall x' r)
+    IsCompact (toStrongDual ⁻¹' closedBall x' r) := by
+  apply isCompact_of_bounded_of_closed _ (isClosed_closedBall x' r)
+  change IsBounded (Metric.closedBall x' r)
+  exact Metric.isBounded_closedBall
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: This `change` is an example of that defeq abuse.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 5]
```diff
@@ -300,8 +316,9 @@ theorem isSeqCompact_polar {s : Set V} (s_nhd : s ∈ 𝓝 (0 : V)) :
 /-- The **Sequential Banach-Alaoglu theorem**: closed balls of the dual of a separable
 normed space `V` are sequentially compact in the weak-* topology. -/
 theorem isSeqCompact_closedBall (x' : StrongDual 𝕜 V) (r : ℝ) :
-    IsSeqCompact (toStrongDual ⁻¹' Metric.closedBall x' r) :=
-  isSeqCompact_of_isBounded_of_isClosed 𝕜 V Metric.isBounded_closedBall
-    (isClosed_closedBall x' r)
+    IsSeqCompact (toStrongDual ⁻¹' Metric.closedBall x' r) := by
+  apply isSeqCompact_of_isBounded_of_isClosed 𝕜 V _ (isClosed_closedBall x' r)
+  change IsBounded (Metric.closedBall x' r)
+  exact Metric.isBounded_closedBall
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: likewise here.

File: Mathlib/Analysis/Normed/Module/WeakSpace.lean [hunk 6]
```diff
@@ -0,0 +1,47 @@
...
+open Topology
+
+namespace WeakSpace
+
+variable {𝕜 : Type*} [NontriviallyNormedField 𝕜]
+variable {E : Type*} [SeminormedAddCommGroup E] [NormedSpace 𝕜 E]
+
+/-- The norm bornology on `WeakSpace 𝕜 E`, inherited from `E`. -/
+instance instBornology : Bornology (WeakSpace 𝕜 E) := inferInstanceAs (Bornology E)
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakSpace.lean]: likewise, you need some API here.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 1 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Way cleaner, changed.

File: Mathlib/Analysis/Normed/Module/Dual.lean (hunk 2 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/Dual.lean]: I've just moved around those theorems, but you're right. I took the opportunity and moved them to a correct place.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 3 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: Thanks for pointing this out! Added API, is this what you meant?

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 4 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: Used new API.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 5 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: likewise here.

File: Mathlib/Analysis/Normed/Module/WeakSpace.lean (hunk 6 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakSpace.lean]: done.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 7]
```diff
@@ -203,23 +203,50 @@ namespace WeakDual
 
 open NormedSpace
 
+/-- The norm bornology on `WeakDual 𝕜 E`, inherited from `StrongDual 𝕜 E`. -/
+instance instBornology : Bornology (WeakDual 𝕜 E) := inferInstanceAs (Bornology (StrongDual 𝕜 E))
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: I think there's a discussion to be had on whether we actually want this instance. It would also make sense to declare that a set in `WeakDual 𝕜 E` is bounded if it is pointwise bounded. Note that
1. If `E` is complete, these two definitions agree thanks to Banach-Steinhaus.
2. One could always recover the "pointwise bounded" definition as [Bornology.IsVonNBounded](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/LocallyConvex/Bounded.html#Bornology.IsVonNBounded).

I'm not sure what the best solution here, I just wanted to point out that this would be a real design choice which should be justified.

File: Mathlib/Analysis/Normed/Module/WeakSpace.lean [hunk 8]
```diff
@@ -0,0 +1,60 @@
...
+open Bornology Topology
+
+namespace WeakSpace
+
+variable {𝕜 : Type*} [NontriviallyNormedField 𝕜]
+variable {E : Type*} [SeminormedAddCommGroup E] [NormedSpace 𝕜 E]
+
+/-- The norm bornology on `WeakSpace 𝕜 E`, inherited from `E`. -/
+instance instBornology : Bornology (WeakSpace 𝕜 E) := inferInstanceAs (Bornology E)
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Module/WeakSpace.lean]: The same comment applies here: this is not so canonical. This is less problematic than the dual case because here we can prove that norm-boundedness and weak-boundedness are the same in full generality. But this is still a not quite trivial theorem.

File: Mathlib/Analysis/LocallyConvex/SeparatingDual.lean [hunk 9]
```diff
@@ -85,6 +85,20 @@ protected theorem t2Space [T2Space R] : T2Space V := by
...
+  rcases exists_ne_zero (R := R) hx with ⟨f, hf⟩
+  exact hf (h f)
+
+theorem eq_zero_iff_forall_dual_eq_zero (x : V) : x = 0 ↔ ∀ g : StrongDual R V, g x = 0 :=
+  ⟨fun hx => by simp [hx], fun h => eq_zero_of_forall_dual_eq_zero (R := R) h⟩
+
+/-- See also `geometric_hahn_banach_point_point`. -/
+theorem eq_iff_forall_dual_eq {x y : V} : x = y ↔ ∀ g : StrongDual R V, g x = g y := by
+  rw [← sub_eq_zero, eq_zero_iff_forall_dual_eq_zero (R := R) (x - y)]
+  simp [sub_eq_zero]
```
Comment (ADedecker) [inline Mathlib/Analysis/LocallyConvex/SeparatingDual.lean]: Would you mind creating a separate PR for this and the related changes, so that it's not delayed by some of the more "controversial" design decisions I mentioned? Thanks!

Comment (mike1729) [reply Mathlib/Analysis/LocallyConvex/SeparatingDual.lean]: I removed "controversial" design decisions from this PR and will start a discussion on Zulip. Hopefully there are no more controversies in this PR :)

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 7 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: Removed. I'll start a discussion on Zulip regarding the need and a potential design of this instance.

File: Mathlib/Analysis/Normed/Module/WeakSpace.lean (hunk 8 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakSpace.lean]: Removed.

File: Mathlib/Analysis/Normed/Module/WeakSpace.lean [hunk 10]
```diff
@@ -0,0 +1,42 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Michał Świętek
+-/
+module
+
+public import Mathlib.Analysis.Normed.Module.HahnBanach
+public import Mathlib.Analysis.Normed.Module.WeakDual
+
+/-!
+# Normed space instances for `WeakSpace`
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakSpace.lean]:
```suggestion
# `WeakSpace` in the context of normed spaces
```

File: Mathlib/Analysis/LocallyConvex/SeparatingDual.lean (hunk 9 above)
Comment (j-loreaux) [inline Mathlib/Analysis/LocallyConvex/SeparatingDual.lean]: Can you please add the appropriate deprecations for the lemmas these are replacing (since they are in a different namespace)?

**Review by j-loreaux — COMMENTED** [review]
I'm pretty happy with this. @ADedecker or @faenuccio, do you have any further comments? If I don't hear from you, I'll just merge this in a day or two.

File: Mathlib/Analysis/LocallyConvex/SeparatingDual.lean (hunk 9 above)
Comment (mike1729) [reply Mathlib/Analysis/LocallyConvex/SeparatingDual.lean]: Done.

File: Mathlib/Analysis/Normed/Module/WeakSpace.lean (hunk 10 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakSpace.lean]: Changed.

File: Mathlib/Analysis/LocallyConvex/SeparatingDual.lean [hunk 11]
```diff
@@ -85,6 +85,20 @@ protected theorem t2Space [T2Space R] : T2Space V := by
   rcases exists_separating_of_ne (R := R) hxy with ⟨f, hf⟩
   exact separated_by_continuous f.continuous hf
 
+theorem eq_zero_of_forall_dual_eq_zero {x : V} (h : ∀ f : StrongDual R V, f x = 0) :
+    x = 0 := by
```
Comment (faenuccio) [inline Mathlib/Analysis/LocallyConvex/SeparatingDual.lean]:
```suggestion
theorem eq_zero_of_forall_dual_eq_zero {x : V} (h : ∀ f : StrongDual R V, f x = 0) : x = 0 := by
```

File: Mathlib/Analysis/LocallyConvex/SeparatingDual.lean [hunk 12]
```diff
@@ -85,6 +85,20 @@ protected theorem t2Space [T2Space R] : T2Space V := by
...
+  by_contra hx
+  rcases exists_ne_zero (R := R) hx with ⟨f, hf⟩
+  exact hf (h f)
+
+theorem eq_zero_iff_forall_dual_eq_zero (x : V) : x = 0 ↔ ∀ g : StrongDual R V, g x = 0 :=
+  ⟨fun hx => by simp [hx], fun h => eq_zero_of_forall_dual_eq_zero (R := R) h⟩
```
Comment (faenuccio) [inline Mathlib/Analysis/LocallyConvex/SeparatingDual.lean]:
```suggestion
  ⟨by simp +contextual, fun h => eq_zero_of_forall_dual_eq_zero (R := R) h⟩
```

File: Mathlib/Analysis/LocallyConvex/SeparatingDual.lean (hunk 11 above)
Comment (mike1729) [reply Mathlib/Analysis/LocallyConvex/SeparatingDual.lean]: done

File: Mathlib/Analysis/LocallyConvex/SeparatingDual.lean (hunk 12 above)
Comment (mike1729) [reply Mathlib/Analysis/LocallyConvex/SeparatingDual.lean]: done

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 13]
```diff
@@ -303,6 +303,14 @@ theorem isBounded_closedBall (x' : StrongDual 𝕜 E) (r : ℝ) :
     IsBounded (toStrongDual ⁻¹' closedBall x' r) :=
   isBounded_toStrongDual_preimage_iff_isBounded.mpr Metric.isBounded_closedBall
 
+/-- The weak-* closure of a norm-bounded set is norm-bounded, because norm-closed balls
+are weak-* closed. -/
+theorem isBounded_closure {s : Set (WeakDual 𝕜 E)} (hb : IsBounded s) :
+    IsBounded (closure s) := by
+  obtain ⟨R, hR⟩ := (Metric.isBounded_iff_subset_closedBall (0 : StrongDual 𝕜 E)).mp hb
+  exact (isBounded_closedBall 0 R).subset
+    (closure_minimal (fun y hy => hR (a := toStrongDual y) hy) (isClosed_closedBall 0 R))
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
    (closure_minimal (fun y hy ↦ hR (a := toStrongDual y) hy) (isClosed_closedBall 0 R))
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 14]
```diff
@@ -0,0 +1,163 @@
...
+* `NormedSpace.isCompact_closure_of_isBounded` transfers compactness from the weak-star topology
+  on the bidual back to the weak topology on `X` via Banach–Alaoglu.
+
+## References
+
+* [Conway, John B., A course in functional analysis][conway1990]
+
+## Tags
+
+double dual, inclusion, isometry, embedding
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]:
```suggestion
double dual, inclusion, isometry, embedding, weak-star topology
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 15]
```diff
@@ -0,0 +1,163 @@
...
+
+universe u v
+
+namespace NormedSpace
+
+section General
+
+variable (𝕜 : Type*) [NontriviallyNormedField 𝕜]
+variable (E : Type*) [SeminormedAddCommGroup E] [NormedSpace 𝕜 E]
+variable (F : Type*) [NormedAddCommGroup F] [NormedSpace 𝕜 F]
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]:
```suggestion
```
The variable `F` is never used, AFAICT.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 16]
```diff
@@ -0,0 +1,163 @@
...
+
+/-- The inclusion of a normed space in its double (topological) strong dual, considered
+as a bounded linear map. -/
+def inclusionInDoubleDual : E →L[𝕜] StrongDual 𝕜 (StrongDual 𝕜 E) :=
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean:58]: I would call this `inclusionInDoubleDualCLM`, especially since we're not in the `ContinuousLinearMap` namespace; what do you think @j-loreaux?

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 17]
```diff
@@ -0,0 +1,163 @@
...
+
+noncomputable section
+
+open Topology Bornology WeakDual
+
+universe u v
+
+namespace NormedSpace
+
+section General
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]:
```suggestion
section inclusionInDoubleDual
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 18]
```diff
@@ -0,0 +1,163 @@
...
+  ContinuousLinearMap.opNorm_flip _
+
+theorem inclusionInDoubleDual_norm_le : ‖inclusionInDoubleDual 𝕜 E‖ ≤ 1 := by
+  rw [inclusionInDoubleDual_norm_eq]
+  exact ContinuousLinearMap.norm_id_le
+
+theorem double_dual_bound (x : E) : ‖(inclusionInDoubleDual 𝕜 E) x‖ ≤ ‖x‖ := by
+  simpa using ContinuousLinearMap.le_of_opNorm_le _ (inclusionInDoubleDual_norm_le 𝕜 E) x
+
+end General
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]:
```suggestion
end inclusionInDoubleDual
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 19]
```diff
@@ -0,0 +1,163 @@
...
+  rw [← (inclusionInDoubleDualLi (E := E) 𝕜).norm_map x]
+  exact ContinuousLinearMap.opNorm_le_bound _ hMp hM
+
+end Seminormed
+
+end BidualIsometry
+
+section Embedding
+
+variable (𝕜 : Type*) [RCLike 𝕜] (X : Type*) [NormedAddCommGroup X] [NormedSpace 𝕜 X]
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Except for `inclusionInDoubleDualWeak_isEmbedding` you only need `SeminormedAddCommGroup X`, so I'd suggest that you stick to this weaker assumption and that you add a `Y` with `NormedAddCommGroup Y` there.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 20]
```diff
@@ -0,0 +1,163 @@
...
+
+/-- The canonical map from a normed space (with the weak topology) into the weak-star bidual.
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]:
```suggestion
/-- The map from a normed space with the weak topology into the weak-star bidual.
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 21]
```diff
@@ -0,0 +1,163 @@
...
+This is `inclusionInDoubleDual` composed with `StrongDual.toWeakDual`, bundling the topology
+change on both sides. -/
+def inclusionInDoubleDualWeak (x : WeakSpace 𝕜 X) : WeakDual 𝕜 (StrongDual 𝕜 X) :=
+  StrongDual.toWeakDual (inclusionInDoubleDual 𝕜 X x)
+
+/-- The canonical embedding into the weak-star bidual evaluates to `f x`. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]:
```suggestion
/-- The embedding into the weak-star bidual evaluates to `f x`. -/
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 22]
```diff
@@ -0,0 +1,163 @@
...
+@[simp]
+theorem inclusionInDoubleDualWeak_apply (x : WeakSpace 𝕜 X) (f : StrongDual 𝕜 X) :
+    (inclusionInDoubleDualWeak 𝕜 X x) f = f x :=
+  rfl
+
+/-- `inclusionInDoubleDualWeak` is inducing: the weak topology on `X` coincides with the topology
+pulled back from the weak-star topology on the bidual. Both are the topology of pointwise
+convergence against `StrongDual 𝕜 X`. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Is the language of "pointwise convergence *agains* something" standard?

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 23]
```diff
@@ -0,0 +1,163 @@
...
+  injective := StrongDual.toWeakDual.injective.comp
+    (inclusionInDoubleDualLi (𝕜 := 𝕜) (E := X)).injective
+
+/-- The inclusion of a normed space into its double dual, as a homeomorphism onto its range,
+where the domain carries the weak topology and the codomain the weak-star topology. -/
+def inclusionInDoubleDualWeak_homeomorph :
+    WeakSpace 𝕜 X ≃ₜ Set.range (inclusionInDoubleDualWeak 𝕜 X) :=
+  (inclusionInDoubleDualWeak_isEmbedding 𝕜 X).toHomeomorph
+
+/-- If `S` is bounded and the weak-star closure of its image under the canonical embedding into the
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: In this doc I would clarify what is `S`. I would also remove "canonical"

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 24]
```diff
@@ -0,0 +1,163 @@
...
+double dual lies in the range of that embedding, then `closure S` is compact in the weak topology.
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]:
```suggestion
weak-start double dual lies in the range of that embedding, then `closure S` is compact in the weak topology.
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 25]
```diff
@@ -0,0 +1,163 @@
...
+
+This combines Banach–Alaoglu (compactness of bounded weak-star–closed sets) with the topological
+embedding `inclusionInDoubleDualWeak_isEmbedding` to transfer compactness back to the weak
+topology on `X`. -/
+theorem isCompact_closure_of_isBounded {S : Set (WeakSpace 𝕜 X)}
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: I'm not 100% sure that I would leave `S` implicit here: it can sometimes be inferred from `hb` below, but in a setting where you're just applying the lemma and you want to postpone the proof that it is bounded, I'm not sure Lean can infer it. Unless you've already stress-tested this setting, I would suggest to leave `S` explicit for the time being.

**Review by faenuccio — COMMENTED** [review]
Thanks! I've added some more comments and re-applied the `awaiting-author` label.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 16 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean:58]: This is just being moved, and so I think it's alright to leave it as it is, especially because there's no reason to have a bundling any weaker than this.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 25 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: I think I agree in this particular case, but in general this is not so big an issue compared to Lean 3, since we can now do `(S := ...)`.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 26]
```diff
@@ -0,0 +1,163 @@
...
+
+section Embedding
+
+variable (𝕜 : Type*) [RCLike 𝕜] (X : Type*) [NormedAddCommGroup X] [NormedSpace 𝕜 X]
+
+/-- The canonical map from a normed space (with the weak topology) into the weak-star bidual.
+This is `inclusionInDoubleDual` composed with `StrongDual.toWeakDual`, bundling the topology
+change on both sides. -/
+def inclusionInDoubleDualWeak (x : WeakSpace 𝕜 X) : WeakDual 𝕜 (StrongDual 𝕜 X) :=
+  StrongDual.toWeakDual (inclusionInDoubleDual 𝕜 X x)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Oh, actually this has two issues that I didn't catch before.

1. It's abusing the defeq between `WeakSpace 𝕜 X`
2. It's not bundled into a linear map.

You should turn this into a term of type `WeakSpace 𝕜 X →ₗ[𝕜] WeakDual 𝕜 (StrongDual 𝕜 X)` and build it using `LinearEquiv.arrowCongr` along with `StrongDual.toWeakDual` and `toWeakSpace`.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 13 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: fixed

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 14 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: added

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 15 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: removed

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 17 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: chenged

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 19 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: the next two results depend on inclusionInDoubleDualWeak_isEmbedding but the other two don't so changed it

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 20 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: removed

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 23 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Clarified and removed "canonical". Note that in this case "canonical" is a standard name not an adjective ;)

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 24 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: added

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 25 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: changed.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 26 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Thanks for spotting this! Changed as you suggested.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 27]
```diff
@@ -0,0 +1,165 @@
...
+via `toWeakSpace` and `StrongDual.toWeakDual`. -/
+def inclusionInDoubleDualWeak : WeakSpace 𝕜 X →ₗ[𝕜] WeakDual 𝕜 (StrongDual 𝕜 X) :=
+  (LinearEquiv.arrowCongr (toWeakSpace 𝕜 X) StrongDual.toWeakDual)
+    (inclusionInDoubleDual 𝕜 X).toLinearMap
+
+/-- The embedding into the weak-star bidual evaluates to `f` applied to the underlying element. -/
+@[simp]
+theorem inclusionInDoubleDualWeak_apply (x : WeakSpace 𝕜 X) (f : StrongDual 𝕜 X) :
+    (inclusionInDoubleDualWeak 𝕜 X x) f = f ((toWeakSpace 𝕜 X).symm x) := by
+  simp [inclusionInDoubleDualWeak, LinearEquiv.arrowCongr_apply]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: A few more changes to this declaration.

1. We can upgrade it even to a *continuous* linear map, so we should.
2. `simps!` can generate the `simp` lemma you wrote by hand (although it's the `apply_apply` lemma.
3. Here I have it generate `apply_apply` and `apply`, because I think the latter might be useful (but they are not *both*) marked `simp` because that would make the `simpNF` linter complain.
4. We add a `simp` lemma for the `toLinearMap` of this.

```suggestion
/-- The map from a normed space with the weak topology into the weak-star bidual, as a
continuous linear map.  Built using `LinearEquiv.arrowCongr` to properly bundle the topology changes
via `toWeakSpace` and `StrongDual.toWeakDual`. -/
@[simps! -isSimp apply apply_apply]
def inclusionInDoubleDualWeak : WeakSpace 𝕜 X →L[𝕜] WeakDual 𝕜 (StrongDual 𝕜 X) where
  toLinearMap := (toWeakSpace 𝕜 X).arrowCongr StrongDual.toWeakDual
    (inclusionInDoubleDual 𝕜 X).toLinearMap
  cont := Topology.IsInducing.continuous ⟨Eq.symm induced_compose⟩

attribute [simp] inclusionInDoubleDualWeak_apply_apply

@[simp]
lemma toLinearMap_inclusionInDoubleDualWeak :
    (inclusionInDoubleDualWeak 𝕜 X).toLinearMap =
      (toWeakSpace 𝕜 X).arrowCongr  StrongDual.toWeakDual (inclusionInDoubleDual 𝕜 X).toLinearMap :=
  rfl
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 28]
```diff
@@ -0,0 +1,165 @@
...
+
+/-- `inclusionInDoubleDualWeak` is inducing: the weak topology on `X` coincides with the topology
+pulled back from the weak-star topology on the bidual. -/
+theorem inclusionInDoubleDualWeak_isInducing :
+    IsInducing (inclusionInDoubleDualWeak 𝕜 X) where
+  eq_induced := Eq.symm <| induced_compose (f := inclusionInDoubleDualWeak 𝕜 X)
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Since it's actually an embedding, we can remove this entirely and still anything that uses dot notation can just use the `IsEmbedding` version through the magic of `extends`.
```suggestion
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 29]
```diff
@@ -0,0 +1,165 @@
...
+variable (𝕜 : Type*) [RCLike 𝕜] (X : Type*) [NormedAddCommGroup X] [NormedSpace 𝕜 X]
+
+/-- `inclusionInDoubleDualWeak` is a topological embedding from the weak topology to the weak-star
+topology. -/
+theorem inclusionInDoubleDualWeak_isEmbedding :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: This is named backwards.
```suggestion
theorem isEmbedding_inclusionInDoubleDualWeak :
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 30]
```diff
@@ -0,0 +1,165 @@
...
+    IsEmbedding (inclusionInDoubleDualWeak 𝕜 X) where
+  toIsInducing := inclusionInDoubleDualWeak_isInducing 𝕜 X
+  injective := StrongDual.toWeakDual.injective.comp
+    (inclusionInDoubleDualLi (𝕜 := 𝕜) (E := X)).injective
+
+/-- The inclusion of a normed space into its double dual, as a homeomorphism onto its range,
+where the domain carries the weak topology and the codomain the weak-star topology. -/
+def inclusionInDoubleDualWeak_homeomorph :
+    WeakSpace 𝕜 X ≃ₜ Set.range (inclusionInDoubleDualWeak 𝕜 X) :=
+  (inclusionInDoubleDualWeak_isEmbedding 𝕜 X).toHomeomorph
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: I'm not convinced this is actually that useful to have as a separate `def`, especially since you can access it via `IsEmbedding.toHomeomorph`. And as is, it doesn't follow the naming conventions (lowerCamelCase) for `def`s.
```suggestion
```
If you feel strongly that it should be kept, please explain why.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 31]
```diff
@@ -0,0 +1,165 @@
...
+This combines Banach–Alaoglu (compactness of bounded weak-star–closed sets) with the topological
+embedding `inclusionInDoubleDualWeak_isEmbedding` to transfer compactness back to the weak
+topology on `X`. -/
+theorem isCompact_closure_of_isBounded (S : Set (WeakSpace 𝕜 X))
+    (hb : IsBounded ((toWeakSpace 𝕜 X) ⁻¹' S))
+    (hrange : closure (inclusionInDoubleDualWeak 𝕜 X '' S) ⊆
+      Set.range (inclusionInDoubleDualWeak 𝕜 X)) :
+    IsCompact (closure S) := by
+  rw [(inclusionInDoubleDualWeak_isInducing 𝕜 X).closure_eq_preimage_closure_image]
+  apply (inclusionInDoubleDualWeak_isInducing 𝕜 X).isCompact_preimage' _ hrange
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Behold the magic of `extends`
```suggestion
  rw [(isEmbedding_inclusionInDoubleDualWeak 𝕜 X).closure_eq_preimage_closure_image]
  apply (isEmbedding_inclusionInDoubleDualWeak 𝕜 X).isCompact_preimage' _ hrange
```

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean [hunk 32]
```diff
@@ -0,0 +1,165 @@
...
+    IsInducing (inclusionInDoubleDualWeak 𝕜 X) where
+  eq_induced := Eq.symm <| induced_compose (f := inclusionInDoubleDualWeak 𝕜 X)
+
+variable (𝕜 : Type*) [RCLike 𝕜] (X : Type*) [NormedAddCommGroup X] [NormedSpace 𝕜 X]
+
+/-- `inclusionInDoubleDualWeak` is a topological embedding from the weak topology to the weak-star
+topology. -/
+theorem inclusionInDoubleDualWeak_isEmbedding :
+    IsEmbedding (inclusionInDoubleDualWeak 𝕜 X) where
+  toIsInducing := inclusionInDoubleDualWeak_isInducing 𝕜 X
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Because we're removing the previous declaration.
```suggestion
  eq_induced := Eq.symm induced_compose
```

**Review by j-loreaux — COMMENTED** [review]
Apologies, but I realized there is yet more to improve here.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 22 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Removed

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 30 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: No strong feelings, just imagined that it would be nice to have a direct version. Removed.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 28 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Got it, removed.

File: Mathlib/Analysis/Normed/Module/DoubleDual.lean (hunk 27 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/DoubleDual.lean]: Upgraded :)

**Review by j-loreaux — COMMENTED** [review]
Well, it bothers me that all this is done only for normed spaces, but fixing that is outside the scope of this PR. The issue is that the hypotheses of `ContinuousLinearMap.apply` are wrong, in part because it uses `ContinuousLinearMap.flip`, which needs normed spaces.

bors merge
